*Dec 23, 2013
*ECN S13-2601, Rev. A
*File Name: SiSS27DN_PS.txt and SiSS27DN_PS.lib
*This document is intended as a SPICE modeling guideline and does not
*constitute a commercial product datasheet. Designers should refer to the
*appropriate datasheet of the same number for guaranteed specification
*limits.
.SUBCKT SiSS27DN D G S 
M1 3 GX S S PMOS W= 8975000u L= 0.25u 
M2 S GX S D NMOS W= 8975000u L= 0.28u
R1 D 3 3.30e-03 TC=4.576e-03, -1.862e-06 
CGS GX S 3.23e-09 
CGD GX D 2.272e-10 
RG G GY 3 
RTCV 100 S 1e6 TC=3.533e-04, 5.125e-06 
ETCV GY GX 100 200 1 
ITCV S 100 1u 
VTCV 200 S 1 
DBD D S DBD 8975000u 
**************************************************************** 
.MODEL PMOS PMOS ( LEVEL = 3 TOX = 5e-8 
+ RS = 0 KP = 2.918e-06 NSUB = 3.213e+16 
+ KAPPA = 3.071e-02 NFS = 2.474e+10 
+ LD = 0 IS = 0 TPG = -1 ) 
*************************************************************** 
.MODEL NMOS NMOS ( LEVEL = 3 TOX = 5e-8 
+NSUB = 2.118e+16 IS = 0 TPG = -1 ) 
**************************************************************** 
.MODEL DBD D ( 
+FC = 0.1 TT = 3.413e-08 T_MEASURED = 25 BV = 31 
+RS = 1.672e-02 N = 1.264e+00 IS = 5.827e-11 
+EG = 1.259e+00 XTI = 8.035e-01 TRS1 = 3.013e-03 
+CJO = 2.000e-11 VJ = 1.294e+00 M = 5.243e-01 ) 
.ENDS 
